US05849735
N-[5-[(6,7-Dihydro-5H-dibenz[b,d]azepin-5-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide
As described for Example 12, 6,7-dihydro-5H-dibenz[b,d]azepine is reacted with 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride to give the product as a solid.

reactant | 6,7-dihydro-5H-dibenz[b,d]azepine | C1=CC=CC=2NCCC3=C(C21)C=CC=C3 | C14H13N
reactant | 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride | C1(=C(C=CC=C1)C(=O)NC1=CC=C(C=N1)C(=O)Cl)C1=CC=CC=C1 | C19H13ClN2O2
product | N-[5-[(6,7-Dihydro-5H-dibenz[b,d]azepin-5-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide | C1=CC=CC=2N(CCC3=C(C21)C=CC=C3)C(=O)C=3C=CC(=NC3)NC(=O)C=3C(=CC=CC3)C3=CC=CC=C3 | C33H25N3O2
